US05064819
A solution of 0.35 g of ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxy-propyl(n-butyl) phosphinic acid in 10 ml of 5.0M aqueous hydrochloric acid is heated to reflux for 24 hours. The reaction is cooled to room temperature and washed with 3×50 ml of dichloromethane and 1×50 ml ether. After evaporation of the aqueous layer the residue is co-evaporated with water (3×50 ml) and absolute ethanol (3×50 ml) and dried in high vacuum to afford 3-amino-2-(4-chlorophenyl)-1-hydroxy-propyl (n-butyl)phosphinic acid hydrochloride.

reactant | ethyl 3-(N-tert.-butyloxycarbonylamino)-2-(4-chlorophenyl)-1-hydroxy-propyl(n-butyl) phosphinic acid | 0.35 g | C(C)OP(=O)(CCCC)C(C(CNC(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl)O | C20H33ClNO5P
solvent | hydrochloric acid | 5.0M, 10 ml | Cl | ClH
product | 3-amino-2-(4-chlorophenyl)-1-hydroxy-propyl (n-butyl)phosphinic acid hydrochloride | Cl.NCC(C(O)P(O)(=O)CCCC)C1=CC=C(C=C1)Cl | InChI=1S/C13H21ClNO3P.ClH/c1-2-3-8-19(17,18)13(16)12(9-15)10-4-6-11(14)7-5-10;/h4-7,12-13,16H,2-3,8-9,15H2,1H3,(H,17,18);1H
